data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_605135_1,[C:1]1([C:2](=[C:5]([H:12])[H:13])[O:7][H:9])([C:4](=[O:6])[H:11])[C:3]([H:10])=[N:8]1>>[c:1]1([C:2](=[C:5]([H:12])[H:13])[O:7][H:9])[c:4]([H:11])[o:6][c:3]([H:10])[n:8]1,39.03050000001159
MR_63174_1,[C:1]([C:2]([O:5][H:9])=[O:6])([O:3][H:7])([O:4][H:8])[H:10]>>[C:1]([C:2]([O:5][H:9])([O:6][H:8])[H:10])([O:3][H:7])=[O:4],54.33020499997767
MR_578148_0,[C:1]1([N:5]([H:11])[H:12])([H:10])[C:3]([C:4]([C:2]([H:13])([H:14])[H:15])=[C:7]([H:18])[H:19])([O:8][H:9])[C:6]1([H:16])[H:17]>>[C:1]([C:3]([C:4]([C:2]([H:13])([H:14])[H:15])=[C:7]([H:18])[H:19])=[C:6]([H:16])[H:17])([N:5]([H:11])[H:12])([O:8][H:9])[H:10],53.67195749996313
MR_628235_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:4]1([O:7][N:6]([H:11])[H:12])[C:5](=[O:9])[O:8]1)[H:10]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:5]([C:4]([O:7][N:6]([H:11])[H:12])=[O:8])=[O:9])[H:10],38.061639999996544
MR_50361_0,[C:1](/[C:5](=[C:3]([C:4](=[C:6](/[C:2]([H:15])([H:16])[H:17])[H:11])\[H:9])/[O:7][H:8])[H:10])([H:12])([H:13])[H:14]>>[C:1]([C:5]1([H:10])[C:3]([O:7][H:8])=[C:4]([H:9])[C:6]1([C:2]([H:15])([H:16])[H:17])[H:11])([H:12])([H:13])[H:14],50.73462999999563
MR_310954_1,[C:1]1([H:11])([H:12])[C:3]([N:4]([H:9])[H:10])=[C:2]([O:6][H:8])[N:7]=[C:5]1[H:13]>>[C:1]1([H:11])([H:12])[C:3]2([N:4]([H:9])[H:10])[C:2]([O:6][H:8])=[N:7][C:5]12[H:13],67.61124249997536
MR_416455_1,[C:1](\[C:2]([H:16])([H:17])[H:18])(=[C:5](/[C:6]([N:3]([H:10])[H:11])(/[C:4](=[N:8]/[H:12])[H:13])[H:15])[H:14])[O:7][H:9]>>[C:1]([C:2]([H:16])([H:17])[H:18])(/[C:4](=[N:8]/[H:12])[H:13])(/[C:5](=[C:6](\[N:3]([H:10])[H:11])[H:15])[H:14])[O:7][H:9],62.12375499999027
MR_548947_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:4]([C:3]([H:15])([H:16])[H:17])=[C:7]([H:18])[H:19])([N:5]([H:9])[H:10])[C:6](=[C:8]([H:20])[H:21])[H:11]>>[C:1](\[C:2]([H:12])([H:13])[H:14])([C:4]([C:3]([H:15])([H:16])[H:17])([C:6](=[C:8]([H:20])[H:21])[H:11])[C:7]([H:10])([H:18])[H:19])=[N:5]\[H:9],63.4634674999964
MR_531456_1,[C:1](/[C:6](=[C:4](\[C:5]([C:7]([C:2]([H:19])([H:20])[H:24])[C:3]([H:21])([H:22])[H:23])[N:8]([H:12])[H:13])[O:10][H:11])[N:9]([H:14])[H:15])([H:16])([H:17])[H:18]>>[C:1]([C@@:6]1([N:9]([H:14])[H:15])[C:4]([O:10][H:11])=[C:5]([N:8]([H:12])[H:13])[C:7]1([C:2]([H:19])([H:20])[H:24])[C:3]([H:21])([H:22])[H:23])([H:16])([H:17])[H:18],36.56630750002663
MR_135521_0,[C:1](/[C:3]([N:2]([C:5](=[O:7])[H:11])[H:8])=[N:6]\[N:4]([H:9])[H:10])([H:12])([H:13])[H:14]>>[C:1](/[C:3](=[N:2]\[H:8])[N:6]([N:4]([H:9])[H:10])[C:5](=[O:7])[H:11])([H:12])([H:13])[H:14],38.63831250003869
MR_216276_0,[C:1]([C:2]([C:5]([H:19])([H:21])[H:22])([C:6]([H:20])([H:23])[H:24])[H:11])([C:3]([C:7]([C:4]([H:16])([H:17])[H:18])=[O:9])([H:14])[H:15])([N:8]([H:12])[H:13])[H:10]>>[C:1](\[C:3]([C:7]([C:2]([C:5]([H:19])([H:21])[H:22])([C:6]([H:20])([H:23])[H:24])[H:11])([C:4]([H:16])([H:17])[H:18])[O:9][H:13])([H:14])[H:15])(=[N:8]/[H:12])[H:10],67.49389999998627
MR_574711_0,[N:1](/[C:3](=[N:5]/[N:2]([H:8])[H:9])[H:10])([N:4]=[O:6])[H:7]>>[N:1]1([H:7])[C@@:3]([N:4]=[O:6])([H:10])[N:5]1[N:2]([H:8])[H:9],71.56198249998809
MR_240473_2,[C:1]([C:4]([C:2](/[C:3]([N:5]([H:11])[H:12])=[N:8]\[C:6]([H:16])[H:17])[O:7][H:10])=[O:9])([H:13])([H:14])[H:15]>>[C:1]([C:4](/[C:3](=[C:2](\[O:7][H:10])[N:8]=[C:6]([H:16])[H:17])[N:5]([H:11])[H:12])=[O:9])([H:13])([H:14])[H:15],69.34753500001463
MR_443260_1,[C:1]1([N:5]([H:10])[H:11])([O:7][H:9])[C:2]([H:12])([H:13])[N:8]1/[C:6](=[N:4]/[C:3]([H:15])([H:16])[H:17])[H:14]>>[C:1]1([N:5]([H:10])[H:11])([O:7][H:9])[C:2]([H:12])([H:13])[N:4]([C:3]([H:15])([H:16])[H:17])[C:6]([H:14])=[N:8]1,42.80616750000263
MR_113428_1,[C:1]([C:3]([H:13])([H:14])[H:15])([N:4]([H:8])[H:9])([O:5][O:6][C:2]([H:10])([H:11])[H:12])[H:7]>>[C:1]([C:3]([H:13])([H:14])[H:15])([N:4]([H:8])[H:9])([O:5][H:7])[O:6][C:2]([H:10])([H:11])[H:12],50.31608750001794
MR_397796_0,[C:1]([C:5]([C:2]([H:14])([H:15])[H:17])=[C:4]([N:3]([N:6]([H:10])[H:11])[H:9])[O:7][H:8])([H:12])([H:13])[H:16]>>[C:1]([C:5]([C:2]([H:14])([H:15])[H:17])([C:4]1([O:7][H:8])[N:3]([H:9])[N:6]1[H:10])[H:11])([H:12])([H:13])[H:16],64.16124749998247
MR_87207_0,[C:1]1([C:2]([C:4]([H:12])([H:14])[H:15])([C:5]([H:13])([H:16])[H:17])[H:9])([H:8])[C:3]([H:10])([H:11])[N:6]1[H:7]>>[C:1](\[C:2]([C:4]([H:12])([H:14])[H:15])([C:5]([H:13])([H:16])[H:17])[H:9])([C:3]([H:8])([H:10])[H:11])=[N:6]/[H:7],70.8855375000195
MR_512593_0,[C:1]([C:3]([C:2]([H:13])([H:14])[H:15])([C:4]([O:7][H:12])=[O:9])[O:8][H:11])([O:5][H:10])=[O:6]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([C:4]([O:7][H:12])=[O:9])=[O:8])([O:5][H:10])[O:6][H:11],61.14548250007033
MR_14710_2,[C:1]([N:2]([H:5])[H:6])(/[C:3](=[N:4]/[H:7])[H:10])([H:8])[H:9]>>[C:1]([N:2]([H:5])[H:6])(/[C:3](=[N:4]\[H:7])[H:9])([H:8])[H:10],58.065085000018186
MR_294864_1,[C:1]([C:2]([C:5](=[O:8])[H:15])([H:13])[H:14])([C:3]([N:4]([H:11])[H:12])=[O:7])([O:6][H:9])[H:10]>>[C:1]([C:2]([C:5]([C:3]([N:4]([H:11])[H:12])=[O:7])([O:8][H:9])[H:15])([H:13])[H:14])(=[O:6])[H:10],59.42864250001762
